US09388161B2
(S)-cyclopropyl(6-ethynyl-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)methanone (I-345)
A mixture of (S)-(6-bromo-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (0.030 g, 0.08 mmol), tributyl(ethynyl)stannane (0.030 g, 0.09 mmol), and tetrakis(triphenylphosphine)palladium (O) (0.037 g, 0.03 mmol) in N,N-dimethylformamide (1.5 mL) stirred overnight at 120° C. The reaction mixture was cooled to room temperature, poured into ethyl acetate (15 mL), washed with water (2×5 mL) and brine (5 mL), dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via preparative thin layer chromatography (eluting with 1:5, ethyl acetate/petroleum ether). The product was further purified by preparative-HPLC with the following conditions (Waters III): Column, Xbridge RP C18, 19×150 mm, 5 um; mobile phase, water (0.05% ammonium bicarbonate) and acetonitrile (50% to 100% acetonitrile in 10 min, flow rate: 20 mL/min); Detector, UV 220&254 nm. This afforded (S)-cyclopropyl(6-ethynyl-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)methanone (0.004 g, 16%) as a brown semi-solid. 1H NMR (300 MHz, CD3OD) δ ppm 0.65-0.85 (m, 1H), 0.87-1.04 (m, 2H), 1.05-1.25 (m, 4H), 1.38-1.52 (m, 1H), 1.85-2.02 (m, 1H), 2.11-2.47 (m, 2H), 2.62-2.85 (m, 1H), 3.47 (m, 1H), 4.75-4.82 (m, 1H), 6.79 (d, J=8.10 Hz, 2H), 6.95-7.05 (m, 1H), 7.19-7.39 (m, 3H), 7.45 (d, J=8.40 Hz, 1H). MS (ESI, pos. ion) m/z 332 [M+H]+.

reactant | (S)-(6-bromo-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | 0.08 mmol, 0.030 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)C1CC1)C)OC1=CC=CC=C1 | C20H20BrNO2
reactant | tributyl(ethynyl)stannane | 0.09 mmol, 0.030 g | C(CCC)[Sn](C#C)(CCCC)CCCC
reactant | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.03 mmol, 0.037 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-cyclopropyl(6-ethynyl-2-methyl-5-phenoxy-3,4-dihydroquinolin-1(2H)-yl)methanone | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)C#C)OC1=CC=CC=C1)C | C22H21NO2
